US04593100
5-Acetyl-1,4-Dihydro-2,6-Dimethyl-4-[3-(Trifluoromethyl)Phenyl]-3-Pyridinecarboxylic Acid Ethyl Ester
A mixture of 3-trifluoromethylbenzaldehyde (12 g), acetylacetone (6.9 g), and piperidine (15 drops) was stirred at room temperature overnight. The reaction mixture was dissolved in toluene, and the toluene solution was washed with dilute hydrochloric acid, and dried over magnesium sulfate. Evaporation of toluene afforded a thick oily residue. Ethyl 3-aminocrotonate (7.0 g) was added to the residue, and the resulting mixture was heated on a steam bath overnight. The crude product was purified by a preparative HPLC, then recrystallized from toluene to give the titled product (4.1 g), mp 133°-1314.5° C.

reactant | 3-trifluoromethylbenzaldehyde | 12 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | acetylacetone | 6.9 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | Ethyl 3-aminocrotonate | 7.0 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
catalyst | piperidine | 15 drops | N1CCCCC1 | C5H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Acetyl-1,4-Dihydro-2,6-Dimethyl-4-[3-(Trifluoromethyl)Phenyl]-3-Pyridinecarboxylic Acid Ethyl Ester | 4.1 g | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)C(F)(F)F)C(C)=O)C)C | C19H20F3NO3
